US07671066B2
Preparation of 2-(R)-phenyl-propionic acid (Z)-2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)vinyl ester (CHF 5559)
The compound was obtained starting from 2-(R)-phenyl-propionyl chloride and 2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl) -ethanone, following the procedure of Example 7 (0.22 g, 0.48 mmol, 21% yield).

reactant | 2-(R)-phenyl-propionyl chloride | C1(=CC=CC=C1)[C@H](C(=O)Cl)C | C9H9ClO
reactant | 2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl) -ethanone | ClC=1C=NC=C(C1CC(=O)C1=CC(=C(C=C1)OC)OC)Cl | C15H13Cl2NO3
product | 2-(R)-phenyl-propionic acid (Z)-2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)vinyl ester | 21% yield | ClC=1C=NC=C(C1\C=C(\C1=CC(=C(C=C1)OC)OC)/OC([C@H](C)C1=CC=CC=C1)=O)Cl | C24H21Cl2NO4
